US07754756B2
N-[3-(2-ethoxy-2-hydroxyacetyl)-phenyl]-benzenesulphonamide
1 ml of water, 1 g activated charcoal and 2.66 g (24 mmol) selenium dioxide are added to a solution of 1.65 g (6 mmol) N-(3-acetyl-phenyl)-benzenesulphonamide in 10 ml dioxane. The reaction mixture is stirred for 4 days at 80° C. and then concentrated by evaporation in the rotary evaporator. The residue is dissolved in 30 ml of ethanol and refluxed for 4 hours. Then the reaction mixture is concentrated by evaporation in the rotary evaporator. The residue is dissolved in 100 ml of ethyl acetate, washed several times with 30 ml saturated, aqueous sodium hydrogen carbonate solution, dried on sodium sulphate and again concentrated by evaporation in the rotary evaporator. The crude product thus obtained as a yellow solid is reacted further without any further purification.

reactant | water | 1 ml | O | H2O
reactant | charcoal | C | CH4
reactant | selenium dioxide | 24 mmol, 2.66 g | [Se](=O)=O | O2Se
reactant | N-(3-acetyl-phenyl)-benzenesulphonamide | 6 mmol, 1.65 g | C(C)(=O)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C14H13NO3S
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-[3-(2-ethoxy-2-hydroxyacetyl)-phenyl]-benzenesulphonamide | C(C)OC(C(=O)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)O | C16H17NO5S
